US08084611B2
(1) (2R,4S)-2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydroquinolin-4-ylamine
Water (0.1 ml) and sodium tert-butoxide (212 mg) were added to a solution of (2R,4S)-2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydroquinolin-4-ylamine methane-sulfonate (500 mg) in toluene (2.5 ml) and the mixture was stirred at 80° C. for an hour. Thereto was added water (2.5 ml) and the mixture was stirred at 80° C. for 1.5 hours. The reaction mixture was cooled to room temperature and the organic layer was separated, washed with a saturated brine, dried over magnesium sulfate and concentrated in vacuo to give the titled compound.

reactant | Water | 0.1 ml | O | H2O
reactant | sodium tert-butoxide | 212 mg | CC(C)([O-])C.[Na+]
reactant | (2R,4S)-2-ethyl-6-trifluoromethyl-1,2,3,4-tetrahydroquinolin-4-ylamine methane-sulfonate | 500 mg | CS(=O)(=O)O.C(C)[C@H]1NC2=CC=C(C=C2[C@H](C1)N)C(F)(F)F
reactant | water | 2.5 ml | O | H2O
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,4S)-2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydroquinolin-4-ylamine | C(C)[C@H]1NC2=CC=C(C=C2[C@H](C1)N)C(F)(F)F | C12H15F3N2
